US07772244B2
N-(2-Bromo-6-fluorophenyl)pivalamide
2-Bromo-6-fluoroaniline (8.2 g, 43.2 mmol) was dissolved in pyridine (10 mL) and treated with pivaloyl chloride (7.0 mL, 57.2 mmol). The reaction was stirred at room temperature for 3 h. The reaction mixture was concentrated in vacuo and treated with ethyl acetate (50 mL). Mixture was washed 1 N hydrochloric acid (2×), then brine. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was triturated with hexanes to give a solid which was filtered, washed with hexanes, and dried in vacuo. The title compound was obtained as white solid in 76% yield. 1H NMR (300 MHz, CDCl3): δ 7.39-7.31 (m, 1H), 7.14-7.03 (m, 2H), 6.98 (bs, 1H), 1.34 (s, 9H). Mass spec.: 274.1 (MH)+, 276.1 (MNa)+.

reactant | 2-Bromo-6-fluoroaniline | 43.2 mmol, 8.2 g | BrC1=C(N)C(=CC=C1)F | C6H5BrFN
reactant | pivaloyl chloride | 57.2 mmol, 7.0 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Bromo-6-fluorophenyl)pivalamide | 76% yield | BrC1=C(C(=CC=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
